US08349865B2
Step 2: 6-{[2,6-Dichloro-4-(1-hydroxycyclopropyl)phenyl]amino}pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one
To a solution of methyl 3,5-dichloro-4-[(10-oxo-9,10-dihydropyrido[4,3-c]-1,6-naphthyridin-6-yl)amino]benzoate (67 mg, 0.16 mmol) and titanium (IV) isoproxide (46 mg, 0.16 mmol) in THF (4 mL) was added ethylmagnesium bromide (1.29 mL, 1.29 mmol, 1.0 M in THF) dropwise. The solution was stirred at room temperature overnight and extracted with 3:1 CHCl3/iPrOH. Column chromatography on silica gel (100% CH2Cl2 to 70% CH2Cl2/30% MeOH) afforded the title compound.

reactant | methyl 3,5-dichloro-4-[(10-oxo-9,10-dihydropyrido[4,3-c]-1,6-naphthyridin-6-yl)amino]benzoate | 0.16 mmol, 67 mg | ClC=1C=C(C(=O)OC)C=C(C1NC1=NC2=CC=NC=C2C2=C1C=CNC2=O)Cl | C19H12Cl2N4O3
reactant | ethylmagnesium bromide | 1.29 mmol, 1.0 M, 1.29 mL | C(C)[Mg]Br
solvent | THF | 4 mL | C1CCOC1 | C4H8O
catalyst | titanium (IV) | [Ti+4]
product | 6-{[2,6-Dichloro-4-(1-hydroxycyclopropyl)phenyl]amino}pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one | ClC1=C(C(=CC(=C1)C1(CC1)O)Cl)NC1=NC2=CC=NC=C2C2=C1C=CNC2=O | C20H14Cl2N4O2
